US06566523B1
0.53 g (2.18 mmol) of cis-8-benzyl-7,9-dioxo-2,8-diazabicyclo[4.3.0]nonane (racemate) and 0.51 g (2.18 mmol) of (1S)-camphorsulfonic acid are dissolved in 30 ml of acetone under reflux to give a clear solution and cooled to room temperature. The precipitated solid is filtered off with suction and dried in vacuo to give 0.23 g (0.49 mmol) of (1R,6S)-8-benzyl-7,9-dioxo-2,8-diazabicyclo[4.3.0]nonane-(1S)-camphorsulfonic acid salt.

reactant | cis-8-benzyl-7,9-dioxo-2,8-diazabicyclo[4.3.0]nonane | 2.18 mmol, 0.53 g | C(C1=CC=CC=C1)N1C([C@@H]2CCCN[C@@H]2C1=O)=O | C14H16N2O2
reactant | (1S)-camphorsulfonic acid | 2.18 mmol, 0.51 g | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | (1R,6S)-8-benzyl-7,9-dioxo-2,8-diazabicyclo[4.3.0]nonane-(1S)-camphorsulfonic acid salt | 0.49 mmol, 0.23 g, Yield: 42% | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.C(C2=CC=CC=C2)N2C([C@H]1CCCN[C@H]1C2=O)=O | InChI=1S/C14H16N2O2.C10H16O4S/c17-13-11-7-4-8-15-12(11)14(18)16(13)9-10-5-2-1-3-6-10;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h1-3,5-6,11-12,15H,4,7-9H2;7H,3-6H2,1-2H3,(H,12,13,14)/t11-,12+;7?,10-/m01/s1
